US07622583B2
3-(4-tert-Butyl-benzenesulfonylamino)-5-chloro-pyridine-2-carboxylic acid (75 mg, 0.20 mmol), (2-fluoro-phenyl)-methyl-amine (23 mg, 0.61 mmol), HATU (193 mg, 0.51 mmol), TEA (114 μL, 0.81 mmol) and 0.5 mL NMP were combined in a 4 mL vial and stirred overnight at 60° C. HPLC purification (10 to 95% gradient of MeCN-water) provided 3-(4-tert-butyl-benzenesulfonylamino)-5-chloro-pyridine-2-carboxylic acid (2-fluoro-phenyl)-methyl-amide: 1H NMR (400 MHz, CDCl3) 9.98 (s, 1 H), 8.01 (s, 1 H), 7.82 (d, 2H), 7.63 (s, 1 H), 7.51 (d, 2H), 7.13 (m, 1 H), 6.92 (t, 1 H), 6.84 (t, 1 H), 6.37 (m, 1 H), 3.38 (t, 3H), 1.26 (s, 9H); MS m/z 476.1.

reactant | 3-(4-tert-Butyl-benzenesulfonylamino)-5-chloro-pyridine-2-carboxylic acid | 0.20 mmol, 75 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)O | C16H17ClN2O4S
reactant | (2-fluoro-phenyl)-methyl-amine | 0.61 mmol, 23 mg | FC1=C(C=CC=C1)NC | C7H8FN
reactant | HATU | 0.51 mmol, 193 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 3-(4-tert-butyl-benzenesulfonylamino)-5-chloro-pyridine-2-carboxylic acid (2-fluoro-phenyl)-methyl-amide | FC1=C(C=CC=C1)N(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)Cl)C | C23H23ClFN3O3S
